US08030500B2
5-(5-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-2-fluorophenyl) nicotinonitrile trifluoroacetate
3-Cyanopyridine-5-boronic acid pinacol ester (85 mg, 0.37 mmol), 1-(3-bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (115.5 mg, 0.25 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride (10.07 mg, 0.01 mmol), 2 M aqueous potassium carbonate (0.370 mL, 0.74 mmol) and DMF (2.00 mL) were put in a microwave vial and irradiated in a microwave oven at 110° C. for 20 min. Additional 3-cyanopyridine-5-boronic acid pinacol ester (36.9 mg, 0.16 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride (10.07 mg, 0.01 mmol) were added and the resulting mixture was irradiated at 110° C. for 20 min. Additional 3-cyanopyridine-5-boronic acid pinacol ester (36.9 mg, 0.16 mmol) and [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride (10.07 mg, 0.01 mmol) were added and the resulting mixture was irradiated at 110° C. for 30 min. Additional 3-cyanopyridine-5-boronic acid pinacol ester (36.9 mg, 0.16 mmol) and [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride (10.07 mg, 0.01 mmol) were added and the resulting mixture was irradiated for 30 min. The resulting product mixture was filtered and purified by preparative-HPLC to give the title compound 11.4 mg, (7.6% yield).

reactant | 3-Cyanopyridine-5-boronic acid pinacol ester | 0.37 mmol, 85 mg | C(#N)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
reactant | 1-(3-bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.25 mmol, 115.5 mg | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C20H11BrF5N3
reactant | potassium carbonate | 0.74 mmol, 2 M, 0.370 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyanopyridine-5-boronic acid pinacol ester | 0.16 mmol, 36.9 mg | C(#N)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
reactant | 3-cyanopyridine-5-boronic acid pinacol ester | 0.16 mmol, 36.9 mg | C(#N)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
reactant | 3-cyanopyridine-5-boronic acid pinacol ester | 0.16 mmol, 36.9 mg | C(#N)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.01 mmol, 10.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.01 mmol, 10.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride | 0.01 mmol, 10.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis (diphenylphosphino)ferrocene]palladium(II) chloride | 0.01 mmol, 10.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 5-(5-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-2-fluorophenyl) nicotinonitrile trifluoroacetate | 11.4 mg, 7.6% yield | FC(C(=O)O)(F)F.NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC=C1)C(F)(F)F)C=1C=CC(=C(C1)C=1C=NC=C(C#N)C1)F | InChI=1S/C26H14F5N5.C2HF3O2/c27-20-5-4-16(9-18(20)15-8-14(11-32)12-34-13-15)25(17-6-7-35-22(10-17)26(29,30)31)19-2-1-3-21(28)23(19)24(33)36-25;3-2(4,5)1(6)7/h1-10,12-13H,(H2,33,36);(H,6,7)
